US08003662B2
Step A: Preparation of methyl 1-(4-fluorophenyl)-2-oxopyrrolidine-3-carboxylate:
To a solution of 1-(4-fluorophenyl)-2-oxopyrrolidine-3-carboxylic acid (0.20 g, 0.90 mmol) in a mixture of Et2O (6 mL), MeOH (2 mL), and THF (2 mL) was added (diazomethyl)trimethylsilane (1.1 mL, 2.0 M) at 0° C. The resulting mixture was stirred for 30 minutes at room temperature, quenched with AcOH, and diluted with EtOAc. The organic layer was washed with water, NaHCO3 solution (2×), and brine, dried over MgSO4, and concentrated under reduced pressure to give the desired product (0.206 g, 98%). LRMS (ESI pos) m/e 238.0 (M+1).

reactant | 1-(4-fluorophenyl)-2-oxopyrrolidine-3-carboxylic acid | 0.90 mmol, 0.20 g | FC1=CC=C(C=C1)N1C(C(CC1)C(=O)O)=O | C11H10FNO3
reactant | MeOH | 2 mL | CO | CH4O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | (diazomethyl)trimethylsilane | 2.0 M, 1.1 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
solvent | Et2O | 6 mL | CCOCC | C4H10O
product | methyl 1-(4-fluorophenyl)-2-oxopyrrolidine-3-carboxylate | 0.206 g, 98% | FC1=CC=C(C=C1)N1C(C(CC1)C(=O)OC)=O | C12H12FNO3
